US05668137
Isobutyl chloroformate was added dropwise to a stirred solution of 2-iodo- N-(3-methoxy-5-methylpyrazin-2-yl)benzenesulphonamide (1.65 g), triethylamine (0.57 ml) and pyridine (0.16 ml) in dichloromethane (30 ml) under an atmosphere of argon. The mixture was stirred for 2 hours and then 2M hydrochloric acid (20 ml) was added. The organic layer was separated, washed with water (20 ml) and saturated sodium chloride solution and dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by flash chromatography, eluting with ethyl acetateexane (1:4 v/v), to give 2-iodo- N-(isobutoxycarbonyl)- N-(3-methoxy-5-methylpyrazin-2-yl)benzenesulphonamide (2.0 g) as a gum; 1H NMR (d6 -DMSO): 0.7 (d, 2H), 1.6-1.8 (m, 1H), 2.5 (s, 3H), 3.9 (d, 2H), (dd, 1H), 8.35 (dd, 1H). 4.0 (s, 3H), 7.4 (dt, 1H), 7.7 (dr, 1H), 8.15 (s, 1H), 8.2 (dd, 1H), 8.35 (dd, 1H).

reactant | Isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-iodo- N-(3-methoxy-5-methylpyrazin-2-yl)benzenesulphonamide | 1.65 g | IC1=C(C=CC=C1)S(=O)(=O)NC1=NC=C(N=C1OC)C | C12H12IN3O3S
reactant | triethylamine | 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2M, 20 ml | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | pyridine | 0.16 ml | N1=CC=CC=C1 | C5H5N
product | 2-iodo- N-(isobutoxycarbonyl)- N-(3-methoxy-5-methylpyrazin-2-yl)benzenesulphonamide | 2.0 g | IC1=C(C=CC=C1)S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C17H20IN3O5S
